US07951963B2
To toluene (360 mL) suspension of 180 g of 2-(1-benzothiophen-5-yl)ethanol was added 4.22 g of aqueous solution of 40% (w/w) benzyltrimethylammonium hydroxide, and dropwise added 8.04 g of acrylonitrile at 30° C. After cooling the reaction mixture to 20° C., thereto was dropwise added 53.6 g of acrylonitrile, which was then stirred at 15 to 25° C. for 2 hours. To this reaction mixture were added 27 mL of hydrochloric acid and 180 mL of methanol. Thereto was introduced 97 g of hydrogen chloride at 10 to 25° C., which was then stirred at 30 to 40° C. for 30 minutes and refluxed for 3 hours. After cooling, to the reaction mixture was added 360 mL of water, and the organic layer was separated. To the organic layer were dropwise added 180 mL of methanol, and water (180 mL) solution of 113 g of potassium hydroxide, which was then stirred at 30 to 35° C. for 2 hours. To the reaction mixture was added 360 mL of water, and the aqueous layer was separated. To this aqueous layer was added 360 mL of toluene and dropwise added 151 mL of hydrochloric acid, and the organic layer was separated. After 126 mL of solvent was distilled off under normal pressure from the organic layer, thereto was added 1080 mL of cyclohexane. The precipitate was collected by filtration to provide 222 g of 3-(2-(1-benzothiophen-5-yl)ethoxy)propionic acid as white solid form.

reactant | 2-(1-benzothiophen-5-yl)ethanol | 180 g | S1C=CC2=C1C=CC(=C2)CCO | C10H10OS
reactant | benzyltrimethylammonium hydroxide | [OH-].C(C1=CC=CC=C1)[N+](C)(C)C
reactant | acrylonitrile | 8.04 g | C(C=C)#N | C3H3N
reactant | acrylonitrile | 53.6 g | C(C=C)#N | C3H3N
reactant | hydrochloric acid | 27 mL | Cl | ClH
reactant | hydrogen chloride | 97 g | Cl | ClH
reactant | water | 360 mL | O | H2O
solvent | methanol | 180 mL | CO | CH4O
solvent | toluene | 360 mL | C1(=CC=CC=C1)C | C7H8
product | 3-(2-(1-benzothiophen-5-yl)ethoxy)propionic acid | 222 g | S1C=CC2=C1C=CC(=C2)CCOCCC(=O)O | C13H14O3S
